US04006137
A. 1,2,3-trimethyl-1H-imidazolium iodide
To 20 g of 1,2-dimethylimidazole dissolved in 100 ml of ether there is added 20 ml of methyl iodide. On standing the product precipitates and is filtered off. Two crystallizations from ethanol-ether furnish the pure product, melting point 315°-318° C.

reactant | 1,2-dimethylimidazole | 20 g | CN1C(=NC=C1)C | C5H8N2
reactant | methyl iodide | 20 ml | CI | CH3I
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1,2,3-trimethyl-1H-imidazolium iodide | [I-].C[NH+]1C(N(C=C1)C)C | InChI=1S/C6H12N2.HI/c1-6-7(2)4-5-8(6)3;/h4-6H,1-3H3;1H
